US07632840B2
4-(3-Chloro-2-fluoroanilino)-7-methoxyquinazoline-6-carbaldehyde was coupled with ethylamine using an analogous method to that described for the equivalent step in Example 1 to give N-(3-chloro-2-fluorophenyl)-6-[(ethylamino)methyl]-7-methoxyquinazolin-4-amine; 1H NMR Spectrum: (DMSO-d6) 1.09 (t, 3H); 2.63 (q, 2H); 3.83 (s, 2H); 3.97 (s, 3H); 7.20 (s, 1H); 7.27 (t, 1H); 7.50 (m, 2H); 8.33 (s, 1H); 8.43 (s, 1H); 9.77 (s, 1H); Mass Spectrum: (M+H)+ 361.

reactant | 4-(3-Chloro-2-fluoroanilino)-7-methoxyquinazoline-6-carbaldehyde | ClC=1C(=C(NC2=NC=NC3=CC(=C(C=C23)C=O)OC)C=CC1)F | C16H11ClFN3O2
reactant | ethylamine | C(C)N | C2H7N
product | N-(3-chloro-2-fluorophenyl)-6-[(ethylamino)methyl]-7-methoxyquinazolin-4-amine | ClC=1C(=C(C=CC1)NC1=NC=NC2=CC(=C(C=C12)CNCC)OC)F | C18H18ClFN4O
